US08580794B2
Cis-tert-butyl-4-(cyclopropylamino)cyclohexylcarbamate
The title compound was prepared by substituting tert-butyl 4-oxocyclohexylcarbamate for 4′-chlorobiphenyl-2-carboxaldehyde and cyclopropylamine for tert-butyl piperazine-1-carboxylate in EXAMPLE 1A.

reactant | 4′-chlorobiphenyl-2-carboxaldehyde | ClC1=CC=C(C=C1)C=1C(=CC=CC1)C=O | C13H9ClO
reactant | cyclopropylamine | C1(CC1)N | C3H7N
reactant | tert-butyl piperazine-1-carboxylate | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
product | Cis-tert-butyl-4-(cyclopropylamino)cyclohexylcarbamate | C(C)(C)(C)OC(N[C@@H]1CC[C@@H](CC1)NC1CC1)=O | C14H26N2O2
